US08614239B2
Preparation of Intermediate N-(4,5-Difluoro-6-(2-fluoro-4-iodophenylamino)benzofuran-7-yl)-1-(2-oxoethyl)cyclopropane-1-sulfonamide (I-36a)
2,6-Lutidine (0.077 g, 0.7188 mmol) and NaIO4 (0.307 g, 1.4376 mmol) were added to a solution of 1-allyl-N-(4,5-difluoro-6-(2-fluoro-4-iodophenylamino)benzofuran-7-yl)cyclopropane-1-sulfonamide (I-35a: 0.190 g, 0.3594 mmol) in dioxane (10 mL). This was followed by the addition of osmium tetroxide (0.0045 g, 0.0179 mmol) in water (2 mL). The reaction mass was stirred for 12-16 hours at 20-40° C. The reaction was monitored by TLC (50% ethyl acetate in hexane). The reaction mass was diluted with DCM (50 mL) and partitioned between water and DCM. The organic layer was washed with 2N HCl (20 mL), water, brine solution and concentrated under reduced pressure to afford the crude product. Purification by column chromatography on silica gel (50% ethyl acetate in hexane) afforded 0.086 g of the product (43% yield). LCMS: 74%, m/z=548.9 (M−1).

reactant | 2,6-Lutidine | 0.7188 mmol, 0.077 g | N1=C(C=CC=C1C)C | C7H9N
reactant | 1-allyl-N-(4,5-difluoro-6-(2-fluoro-4-iodophenylamino)benzofuran-7-yl)cyclopropane-1-sulfonamide | 0.3594 mmol, 0.190 g | C(C=C)C1(CC1)S(=O)(=O)NC1=C(C(=C(C=2C=COC21)F)F)NC2=C(C=C(C=C2)I)F | C20H16F3IN2O3S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | osmium tetroxide | 0.0179 mmol, 0.0045 g | [Os](=O)(=O)(=O)=O
product | N-(4,5-Difluoro-6-(2-fluoro-4-iodophenylamino)benzofuran-7-yl)-1-(2-oxoethyl)cyclopropane-1-sulfonamide | 0.086 g, 43% yield | FC1=C(C(=C(C2=C1C=CO2)NS(=O)(=O)C2(CC2)CC=O)NC2=C(C=C(C=C2)I)F)F | C19H14F3IN2O4S
